US04049696
3-((4-(2,2-Dichloro-1,1-difluoroethoxy)phenyl)-sulfonyl-2-propenenitrile
To 3.0 g (0.079 mol) of 2-chloro-3-((4-(2,2-dichloro-1,1-difluoroethoxy)phenyl)sulfonyl)propanenitrile in 100 ml of benzene was added a slight molar excess of triethylamine. The reaction mixture was filtered to remove the triethylamine hydrochloride produced. The benzene was removed in vacuo from the filtrate, and the residue which remained was crystallized from methanol/ water to give 1.5 g of the title compound as a tan solid, mp 89°-90° C.

reactant | 2-chloro-3-((4-(2,2-dichloro-1,1-difluoroethoxy)phenyl)sulfonyl)propanenitrile | 0.079 mol, 3.0 g | ClC(C#N)CS(=O)(=O)C1=CC=C(C=C1)OC(C(Cl)Cl)(F)F | C11H8Cl3F2NO3S
reactant | triethylamine | C(C)N(CC)CC | C6H15N
solvent | benzene | 100 ml | C1=CC=CC=C1 | C6H6
product | (4-(2,2-Dichloro-1,1-difluoroethoxy)phenyl)-sulfonyl-2-propenenitrile | 1.5 g | ClC(C(OC1=CC=C(C=C1)S(=O)(=O)C(C#N)=C)(F)F)Cl | C11H7Cl2F2NO3S
